US04001313
In a 200-ml autoclave were placed 35 grams (0.163 moles) of anhydrous sodium 4-o-xylene sulfonate, 14 grams (0.35 mole) of sodium amide and 120 ml of liquid ammonia in the same manner as in Example 1. The resultant mixture was heated at 120° to 125° C for 15 hours. The reaction pressure in the autoclave was 90 to 100 atm. during the reaction. After the ammonia was removed, 15 ml of methanol was added to the reaction mixture for solvolysis. Thereafter 500 ml of water was added to the product and the mixture was treated in the same manner as in Example 1, whereby 17.4 grams of 3,4-xylidine boiling at 112° C/22 mm Hg was obtained. Yield was 88.1%.

reactant | sodium 4-o-xylene sulfonate | 0.163 moles, 35 grams | C=1(C(=CC(=CC1)S(=O)(=O)[O-])C)C.[Na+]
reactant | sodium amide | 0.35 mole, 14 grams | [NH2-].[Na+]
reactant | ammonia | N | H3N
product | 3,4-xylidine | 17.4 grams, Yield was 88.1% | NC1=CC(=C(C=C1)C)C | C8H11N
